US05977139
(R)-1-(3,4,5-Trimethoxybenzoyl)-3-(2-(4-phenyl-4-carboxypiperidin-1-yl)ethyl)-3-(3,4-dichlorophenyl)pyrrolidine
Alternately prepare by a method similar to Example 5.4.1 using (S)-1-(3,4,5-trimethoxybenzoyl)-3-(3,4-dichlorophenyl)-3-(2-methanesulfonyloxyethyl)pyrrolidine and 4-phenylpiperidine-4-carboxylic acid to give the title compound.

reactant | (S)-1-(3,4,5-trimethoxybenzoyl)-3-(3,4-dichlorophenyl)-3-(2-methanesulfonyloxyethyl)pyrrolidine | COC=1C=C(C(=O)N2C[C@@](CC2)(CCOS(=O)(=O)C)C2=CC(=C(C=C2)Cl)Cl)C=C(C1OC)OC | C23H27Cl2NO7S
reactant | 4-phenylpiperidine-4-carboxylic acid | C1(=CC=CC=C1)C1(CCNCC1)C(=O)O | C12H15NO2
product | (R)-1-(3,4,5-Trimethoxybenzoyl)-3-(2-(4-phenyl-4-carboxypiperidin-1-yl)ethyl)-3-(3,4-dichlorophenyl)pyrrolidine | COC=1C=C(C(=O)N2C[C@](CC2)(C2=CC(=C(C=C2)Cl)Cl)CCN2CCC(CC2)(C(=O)O)C2=CC=CC=C2)C=C(C1OC)OC | C34H38Cl2N2O6
